US06608077B2
a) 4-(azidocarbonyl)-5-methylisooxazole
To a solution of 5-methylisoxazole-4-carboxylic acid (500 mg, 3.94 mmol) in a mixture of acetone (10 mL) and water (3 mL) was added triethylamine (0.83 mL, 5.91 mmol). The mixture was cooled to 0° C. in a ice-bath. Ethylchloroformate (640 mg, 5.91 mmol) was then added and the resulting mixture was stirred for 1.5 hours at 0° C. To the mixture was added sodium azide (410 mg, 6.30 mmol), and the mixture was stirred for another 2 hours. The mixture was concentrated, the residue was diluted with dichloromethane and washed with water. The organic layer was dried over MgSO4 and concentrated to give crude material, which was carried on to the coupling without further purification.

reactant | 5-methylisoxazole-4-carboxylic acid | 3.94 mmol, 500 mg | CC1=C(C=NO1)C(=O)O | C5H5NO3
reactant | triethylamine | 5.91 mmol, 0.83 mL | C(C)N(CC)CC | C6H15N
reactant | Ethylchloroformate | 5.91 mmol, 640 mg | C(C)OC(=O)Cl | C3H5ClO2
reactant | sodium azide | 6.30 mmol, 410 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | water | 3 mL | O | H2O
product | 4-(azidocarbonyl)-5-methylisooxazole | N(=[N+]=[N-])C(=O)C=1C=NOC1C | C5H4N4O2
